US09034895B2
(6-chloro-2-methyl-1-(2-morpholinoethyl)-1H-indol-3-yl)(4-methylnaphthalen-1-yl)methanone (CBX004)
To a solution of 4-(2-(6-chloro-2-methyl-1H-indol-1-yl)ethyl)morpholine (48 mg, 0.17 mmol) in 0.5 mL CH2Cl2 at 0° C. was added dropwise ethyl aluminum dichloride (0.14 mL, 0.26 mmol, 1.8 M in toluene). The reaction mixture was stirred at 0° C. for 30 min, then a solution of 4-methyl-1-naphthoyl chloride (43 mg, 0.21 mmol) in 0.5 mL CH2Cl2 was added and stirred at 0° C. for 1 h, then allowed to slowly warm to room temperature overnight. The reaction stirred at room temp for 3 d. The reaction mixture was then poured into ice cold 1M HCl and extracted three times with CH2Cl2. The combined organic extract was washed three times with a saturated solution of sodium bicarbonate, dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified via silica gel chromatography using a gradient from 0 to 5% MeOH in CH2Cl2 to give CBX004 (23 mg, 0.052 mmol). 1H NMR (500 MHz, CDCl3, δ): 2.46 (s, 3H), 2.48-2.59 (m, 4H), 2.71 (t, J=6.9 Hz, 2H), 2.80 (s, 3H), 3.71 (t, J=4.6 Hz, 4H), 4.20 (t, J=6.9 Hz, 2H), 7.02 (dd, J=8.6 Hz, 1.8 Hz, 1H), 7.25 (d, J=8.6 Hz, 1H), 7.33 (d, J=1.7 Hz, 1H), 7.37 (d, J=7.2 Hz, 1H), 7.44-7.53 (m, 2H), 7.58 (td, J=7.6 Hz, 1.1 Hz, 1H), 8.11 (d, J=8.4 Hz, 1H), 8.18 (d, J=8.4 Hz, 1H). 13C NMR (500 MHz, CDCl3, δ): 12.62, 19.93, 41.40, 54.10, 57.36, 66.88, 109.40, 115.34, 122.34, 122.49, 124.40, 125.72, 125.76, 126.03, 126.08, 126.21, 126.66, 128.25, 130.43, 132.91, 136.51, 137.22, 138.35, 146.00, 193.43. MS m/z 447.6 [M+H]+.

reactant | 4-(2-(6-chloro-2-methyl-1H-indol-1-yl)ethyl)morpholine | 0.17 mmol, 48 mg | ClC1=CC=C2C=C(N(C2=C1)CCN1CCOCC1)C | C15H19ClN2O
reactant | ethyl aluminum dichloride | 0.26 mmol, 1.8 M, 0.14 mL | [Cl-].[Cl-].C(C)[Al+2]
reactant | 4-methyl-1-naphthoyl chloride | 0.21 mmol, 43 mg | CC1=CC=C(C2=CC=CC=C12)C(=O)Cl | C12H9ClO
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (6-chloro-2-methyl-1-(2-morpholinoethyl)-1H-indol-3-yl)(4-methylnaphthalen-1-yl)methanone | ClC1=CC=C2C(=C(N(C2=C1)CCN1CCOCC1)C)C(=O)C1=CC=C(C2=CC=CC=C12)C | C27H27ClN2O2
